US09119868B2
Step 3: 6-(N-(3-Chloro-4-(1-hydroxyallyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of 6-(N-(3-chloro-4-formylphenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.25 g, 0.46 mmol) in THF (10 mL) was cooled to 0° and treated with vinylmagnesium bromide (1 M in THF, 1.02 mL). The reaction mixture was allowed to warm to rt as the bath melted. After 5 h, the reaction mixture was poured into saturated ammonium chloride and extracted with EtOAc (2×). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. Purification by flash chromatography (silica gel, gradient of 0 to 60% EtOAc in hexanes) afforded the title compound (188 mg, 72%) as a white foam. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.45 (q, 1H), 8.11 (s, 1H), 7.93-8.01 (m, 2H), 7.36-7.56 (m, 5H), 7.18 (s, 1H), 5.90 (ddd, 1H), 5.71 (d, 1H), 5.35 (t, 1H), 5.22 (dt, 1H), 5.04-5.11 (m, 1H), 3.40 (s, 3H), 2.83 (d, 3H), 2.09-2.19 (m, 1H), 0.76-1.07 (m, 3H), 0.39-0.54 (m, 1H). LCMS (m/z, ES+)=569 (M+H+).

reactant | 6-(N-(3-chloro-4-formylphenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.46 mmol, 0.25 g | ClC=1C=C(C=CC1C=O)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C27H22ClFN2O5S
reactant | vinylmagnesium bromide | 1 M, 1.02 mL | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(N-(3-Chloro-4-(1-hydroxyallyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 188 mg, 72% | ClC=1C=C(C=CC1C(C=C)O)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C29H26ClFN2O5S
